US04259327
2-(2-Dimethylaminoethoxy)-3-cyanopyridine hydrochloride (XI)
To 2-dimethylaminoethanol (1.3 g, o.,015 m) in DMF (25 mL) was added 57% NaH in mineral oil (0.63 g, 0.015 m). After stirring 0.5 hours at 25° C., a solution of 2-chloro-3-cyanopyridine (2 g, 0.015 m) in DMF (10 mL) was added. The reaction mixture was stirred 20 hours, concentrated to 10 mL and added to H2O (25 mL). The solution was extracted with CHCl3 ; the organic layer was dried, filtered and concentrated. The resulting oil was dissolved in Et2O and treated with HCl in MeOH to yield after recrystallization from Et2O-iso-PrOH 0.8 g (23%) of (XI) m.p. 148°-150° C.

reactant | 2-dimethylaminoethanol | 1.3 g | CN(CCO)C | C4H11NO
reactant | NaH | [H-].[Na+]
reactant | 2-chloro-3-cyanopyridine | 2 g | ClC1=NC=CC=C1C#N | C6H3ClN2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-(2-Dimethylaminoethoxy)-3-cyanopyridine hydrochloride | Cl.CN(CCOC1=NC=CC=C1C#N)C | InChI=1S/C10H13N3O.ClH/c1-13(2)6-7-14-10-9(8-11)4-3-5-12-10;/h3-5H,6-7H2,1-2H3;1H
